US07754735B2
3-(8-nitroquinolin-4-yl)-2,5-dimethyl-1H-indole-1-acetic acid
2,5-Dimethylindole (300 mg) and 8-nitro-4-chloroquinoline (430 mg) were suspended in NMP (10 ml) containing 4M HCl in dioxane (2 drops) and maintained under a nitrogen atmosphere. The reaction was heated to 120° C. with stirring for 8 hours. When cooled, the mixture was basified with saturated sodium hydrogen carbonate solution and extracted into ethyl acetate, dried (MgSO4) and evaporated under reduced pressure to give an oil. The oil was purified by flash column chromatography using 2:1 isohexane/ethyl acetate as eluent to give the sub-title compound (560 mg).

reactant | 2,5-Dimethylindole | 300 mg | CC=1NC2=CC=C(C=C2C1)C | C10H11N
reactant | 8-nitro-4-chloroquinoline | 430 mg | [N+](=O)([O-])C=1C=CC=C2C(=CC=NC12)Cl | C9H5ClN2O2
reactant | HCl | 4M | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | NMP | 10 ml | CN1CCCC1=O | C5H9NO
catalyst | dioxane | 2 drops | O1CCOCC1 | C4H8O2
product | 3-(8-nitroquinolin-4-yl)-2,5-dimethyl-1H-indole-1-acetic acid | 560 mg | [N+](=O)([O-])C=1C=CC=C2C(=CC=NC12)C1=C(N(C2=CC=C(C=C12)C)CC(=O)O)C | C21H17N3O4
